US07091230B2
Step 1 Preparation of 3-Fluoro-2,6-dipropyl-4-propionylphenol
Propionic acid (9.07 g, 123 mmol) and 3-fluoro-2,4-dipropylphenol (9.60 g, 49.0 mmol) were mixed in trifluoromethanesulfonic acid (50 mL) as in Example 13, step 1. Purification by chramotography on silica gel using ethyl acetate:hexane (10:90) gave the title compound as a white solid.

reactant | Propionic acid | 123 mmol, 9.07 g | C(CC)(=O)O | C3H6O2
reactant | 3-fluoro-2,4-dipropylphenol | 49.0 mmol, 9.60 g | FC=1C(=C(C=CC1CCC)O)CCC | C12H17FO
reactant | trifluoromethanesulfonic acid | 50 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 3-Fluoro-2,6-dipropyl-4-propionylphenol | FC=1C(=C(C(=CC1C(CC)=O)CCC)O)CCC | C15H21FO2
